US05173493
To a mixture of aqueous 50% dimethylamine solution (0.20 ml), aqueous 35% formaldehyde solution (0.20 ml), and acetic acid (4 ml) at 15° C. was added 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (418 mg). The mixture was heated at 60° C. for 24 hours. After evaporation of the solvent, the residue was dissolved in water, made basic with aqueous 3N sodium hydroxide solution, and extracted three times with chloroform. The chloroform layer was washed with water and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The oil was purified by silica gel column chromatography (20% methanol-chloroform) to give 8,9-dihydro-10-[(dimethylamino)methyl]-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (240 mg).

reactant | dimethylamine | 0.20 ml | CNC | C2H7N
reactant | formaldehyde | 0.20 ml | C=O | CH2O
reactant | 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 418 mg | CC1=C(N=CN1)CC1CCC=2N(C3=CC=CC=C3C2)C1=O | C17H17N3O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 8,9-dihydro-10-[(dimethylamino)methyl]-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 240 mg | CN(C)CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C20H24N4O
